US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-m-tolyl-amino]-N-cyclopropylmethyl-N-n-propyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with N-cyclopropylmethyl-N-propylamine, m-toluidine and 4-tert-butyl-benzenesulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | N-cyclopropylmethyl-N-propylamine | C1(CC1)CNCCC | C7H15N
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 2-[(4-tert-Butyl-benzenesulfonyl)-m-tolyl-amino]-N-cyclopropylmethyl-N-n-propyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CCC)CC1CC1)C=1C=C(C=CC1)C | C26H36N2O3S
